US09228129B2
4-(Difluoro(4′-propyl-[1,1′-bi(cyclohexane)]-4-yl)methoxy)-2,6-difluorophenol (3.0 g, 7.45 mmol) prepared by known methods and sodium hydride (55%) (0.325 g, 7.45 mmol) were stirred in NMP (N-methylpyroridone) at 60° C. for 30 minutes. (E)-1-Chloro-3,3,3-trifluoro-1-propene (2.43 g, 18.6 mmol) was then added to the reaction solution, and the mixture was stirred at 130° C. for 24 hours. The reaction solution was poured into water, which was extracted with toluene. The combined organic layers were washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled off with an evaporator and the residue was purified by silica gel chromatography and then by recrystallization to give (E)-4-((3,5-difluoro-4-((3,3,3-trifluoro-1-propen-1-yl)oxy)phenoxy)difluoromethyl)-4′-propyl-1,1′-bi(cyclohexane) (56% yield).

reactant | 4-(Difluoro(4′-propyl-[1,1′-bi(cyclohexane)]-4-yl)methoxy)-2,6-difluorophenol | 7.45 mmol, 3.0 g | FC(OC1=CC(=C(C(=C1)F)O)F)(C1CCC(CC1)C1CCC(CC1)CCC)F | C22H30F4O2
reactant | sodium hydride | 7.45 mmol, 0.325 g | [H-].[Na+]
reactant | (E)-1-Chloro-3,3,3-trifluoro-1-propene | 18.6 mmol, 2.43 g | Cl\C=C\C(F)(F)F | C3H2ClF3
reactant | water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | (E)-4-((3,5-difluoro-4-((3,3,3-trifluoro-1-propen-1-yl)oxy)phenoxy)difluoromethyl)-4′-propyl-1,1′-bi(cyclohexane) | 56% yield | FC=1C=C(OC(C2CCC(CC2)C2CCC(CC2)CCC)(F)F)C=C(C1O\C=C\C(F)(F)F)F | C25H31F7O2
